US05658933
a) Methyl 5-(((3-(1-butyloxy)propyl)amino)carbonyl)-3-methoxypyridine-2-carboxylate
1.7 ml of oxalyl chloride (20 mmol), and also 2 drops of N,N-dimethylformamide, dissolved in tetrahydrofuran, were added dropwise, at 10° C. and while stirring, to 2.1 g (10 mmol) of methyl 5-carboxy-3-methoxypyridine-2-carboxylate in 100 ml of anhydrous tetrahydrofuran and the reaction mixture was stirred at 10° C. for 30 min and at 20° C. for 1 h. It was then concentrated and the residue was dissolved in dichloromethane; 6.8 ml (50 mmol) of triethylamine, and then 1.3 g (1.5 ml, 10 mmol) of 3-butoxypropylamine, dissolved in dichloromethane, were added, at 0° C., to this solution.

reactant | oxalyl chloride | 20 mmol, 1.7 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methyl 5-carboxy-3-methoxypyridine-2-carboxylate | 10 mmol, 2.1 g | C(=O)(O)C=1C=C(C(=NC1)C(=O)OC)OC | C9H9NO5
reactant | triethylamine | 50 mmol, 6.8 ml | C(C)N(CC)CC | C6H15N
reactant | 3-butoxypropylamine | 10 mmol, 1.5 ml, 1.3 g | C(CCC)OCCCN | C7H17NO
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | Methyl 5-(((3-(1-butyloxy)propyl)amino)carbonyl)-3-methoxypyridine-2-carboxylate | C(CCC)OCCCNC(=O)C=1C=C(C(=NC1)C(=O)OC)OC | C16H24N2O5
